US06585914B2
4,6-Di(thien-2-yl)pyrimidine.
A mixture of tri-n-butylstannylthiophene (10.52 g, 28.19 mmol), 4,6-dichloropyrimidine (2.00 g, 13.42 mmol), tetrakis(triphenylphosphine)palladium(0) (0.345 g, 0.30 mmol) and few crystals of 2,6-di-tert-butyl-4-methylphenolo in dry toluene (20 mL) was deareated twice with nitrogen. The reaction mixture was refluxed for 6 hours and, after cooling, a white precipitate was formed in the reaction flask. The solid was collected and the organic phase was diluted with ether (100 mL), poured onto a solution of NH4F (3 g, 100 ml) and separated. After drying over MgSO4, the solvent was evaporated affording a solid material. The two solid phase were combined and crystallized from toluene to give the pure product as a white crystals (2.36 g, 9.66 mmol, 72.0% yield). mp 146° C.; 1H NMR (CDCl3) δ 9.07 (1H, d, 2J=1.4), 7.86 (1H, d, 2J=3.7), 7.83 (1H, d), 7.57 (1H, d, 2J=5.1), 7.20 (1H, dd).

reactant | tri-n-butylstannylthiophene | 28.19 mmol, 10.52 g | C(CCC)[Sn](CCCC)(CCCC)C=1SC=CC1
reactant | 4,6-dichloropyrimidine | 13.42 mmol, 2.00 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.30 mmol, 0.345 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,6-Di(thien-2-yl)pyrimidine | 9.66 mmol, 2.36 g, 72.0% yield | S1C(=CC=C1)C1=NC=NC(=C1)C=1SC=CC1 | C12H8N2S2
